US07691882B2
4-Fluoro-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine
A mixture of the 4-(4-fluoro-pyridine-2-yloxymethyl)-benzaldehyde (1.5 g, 6.49 mmol) described in Manufacturing Example 59-1-2, nitromethane (698 μL, 13 mmol), ammonium acetate (750 mg, 9.74 mmol) and acetic acid (15 mL) was stirred for 6 hours at 100° C. This mixture was cooled to room temperature, concentrated under a reduced pressure, and diluted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (1.72 g).

reactant | 4-(4-fluoro-pyridine-2-yloxymethyl)-benzaldehyde | 6.49 mmol, 1.5 g | FC1=CC(=NC=C1)OCC1=CC=C(C=O)C=C1 | C13H10FNO2
reactant | nitromethane | 13 mmol, 698 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 9.74 mmol, 750 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-Fluoro-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 1.72 g | FC1=CC(=NC=C1)OCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C14H11FN2O3
